US08008279B2
6-methylsulfanyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester
6-methylsulfanyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.10 g 5.00 mmol) in dry THF (20 mL) was treated with di-t-butyl-dicarbonate (2.40 g, 11.0 mmol) followed by a few crystals of 4-dimethylaminopyridine. The reaction was stirred at 60° C. for 2 hours. Trituration with a little ether gave pure product as a white solid (191 mg). Material used crude

reactant | 6-methylsulfanyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 5.00 mmol, 1.10 g | CSC1=CC=CC=2C3=C(NC12)CCNC3 | C12H14N2S
reactant | di-t-butyl-dicarbonate | 11.0 mmol, 2.40 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ether | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-methylsulfanyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester | 191 mg | C(C)(C)(C)OC(=O)N1CC2=C(NC=3C(=CC=CC23)SC)CC1 | C17H22N2O2S
